US07208524B2
To a solution of 290 mg of ethyl[4-[2-(5-carbamimidoyl-2-hydroxybenzenesulfonylamino)ethyl]-2′-methanesulfonoylbiphenyl-3-yloxy]acetate in 1.0 mL of acetonitrile was added 0.756 mL of 2 mol/L sodium hydroxide solution, and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added 1.26 mL of 2 mol/L hydrochloric acid, and the mixture was concentrated under reduced pressure. To the residue was added water, and the mixture was purified by column chromatography on trimethylaminopropylated silica gel (eluent: 10% lmol/L hydrochloric acid-acetonitrile). The eluent was concentrated under reduced pressure to give 260 mg of [4-[2-(5-carbamimidoyl-2-hydroxybenzenesulfonylamino)-ethyl]-2′-methanesulfonoylbiphenyl-3-yloxy]acetic acid hydrochloride as a white solid.

reactant | ethyl[4-[2-(5-carbamimidoyl-2-hydroxybenzenesulfonylamino)ethyl]-2′-methanesulfonoylbiphenyl-3-yloxy]acetate | 290 mg | C(C)OC(COC=1C=C(C=CC1CCNS(=O)(=O)C1=C(C=CC(=C1)C(N)=N)O)C1=C(C=CC=C1)S(=O)(=O)C)=O | C26H29N3O8S2
reactant | sodium hydroxide | 2 mol/L, 0.756 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L, 1.26 mL | Cl | ClH
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | [4-[2-(5-carbamimidoyl-2-hydroxybenzenesulfonylamino)-ethyl]-2′-methanesulfonoylbiphenyl-3-yloxy]acetic acid hydrochloride | 260 mg | Cl.C(N)(=N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCC(=O)O)O | InChI=1S/C24H25N3O8S2.ClH/c1-36(31,32)21-5-3-2-4-18(21)16-7-6-15(20(12-16)35-14-23(29)30)10-11-27-37(33,34)22-13-17(24(25)26)8-9-19(22)28;/h2-9,12-13,27-28H,10-11,14H2,1H3,(H3,25,26)(H,29,30);1H
